US04410705
The Preparation of 1-Cyano-5-Ketohexane
A solution of 2 ml of NH3 in 50 ml of methanol is charged into a round bottom flask fitted with a gas inlet tube and a mechanical stirrer. Fitted to the gas inlet tube was an oxygen buret graduated in ml and containing oxygen gas. To this solution was added with stirring 0.015 g of CuCl2.H2O and 1.1 g of 2-methyl cyclohexanone. Stirring was continued until all solids had dissolved. A steady stream of oxygen was bubbled into the solution for approximately 20 hours, while the solution was stirred at room temperature. Total oxygen uptake was 190 ml. The methanol solvent was removed by rotary evaporator and the product extracted in ether. The ether layer was concentrated. IR analyses confirmed the presence of the desired compound and the lack of the oxazoline compound.

reactant | NH3 | 2 ml | N | H3N
reactant | oxygen | O=O | O2
reactant | 2-methyl cyclohexanone | 1.1 g | CC1C(CCCC1)=O | C7H12O
reactant | methanol | 50 ml | CO | CH4O
product | 1-Cyano-5-Ketohexane | C(#N)CCCCC(C)=O | C7H11NO
